### PR TITLE
Using real, Set.indicator vs Measure.restrict (periodic functions), statement of real interpolation theorem

### PR DESCRIPTION
**Pull request by ldiedering**
This PR contains the additions to the "Common Pitfalls" section from tasks 17a and 17b, plus something closely related about periodic functions (feel free to remove that part if it is not desired; also I was not entirely sure what was expected for the two tasks so just tell me if you had something different in mind). 

I also added the statement of the real interpolation theorem in the corresponding section (as suggested to me by @fpvandoorn), trying to follow the Lean version as closely as possible. While going through the hypotheses I found some unnecessary ones that could be removed from several lemmas as well as the final statement after a few small changes (hence the changes in the Lean code included in this PR mainly regarding the paper).

### CODE REVIEW

File: Carleson/ToMathlib/RealInterpolation/Minkowski.lean [hunk 1]
```diff
@@ -465,11 +468,13 @@ lemma lintegral_lintegral_pow_swap_truncCompl {q q₀ p₀ : ℝ} [MeasurableSpa
           have : Measure.map (fun a ↦ ENNReal.ofReal a) (volume.restrict (Ioi 0)) = volume.restrict (Ioi 0) := by
             simp [map_restrict_Ioi_eq_restrict_Ioi]
           rw [this]
-          have : (fun a ↦ ‖trnc j f (tc.ton a.1) a.2‖ₑ ^ p₀) = (fun z : E₁ ↦ ‖ z ‖ₑ ^ p₀) ∘ (fun a : ℝ≥0∞ × α ↦ trnc j f (tc.ton a.1) a.2) := rfl
+          --TODO: fun_prop
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Minkowski.lean]: Can you elaborate on this comment? Having such notes is very useful, but I don't understand what you mean :-)

**Review by grunweg — COMMENTED** [review]
I'd be happy to merge the Lean code changes, if you make them a separate PR.
Otherwise, consider this my LGTM on them (with one minor comment, see below).

File: Carleson/ToMathlib/RealInterpolation/Minkowski.lean (hunk 1 above)
Comment (ldiedering) [reply Carleson/ToMathlib/RealInterpolation/Minkowski.lean]: Ah, sorry, that was meant to be a temporary comment and should be fixed now. It was meant to be a reminder to replace it with an uncommented `fun_prop`. It worked, just not at the intended time...

File: paper/main.tex [hunk 2]
```diff
@@ -250,6 +250,11 @@ \subsection{Mathematical background}\label{subsec:background}
 \begin{equation}
   \|T f\|_{L^{p',\infty}} \le C \cdot \|f\|_{L^p}.
 \end{equation}
+Similarly, the operator $T$ is of strong type if there exists a constant $C$ such that for any $f\in L^p(X; E)$, we have that $T f$ is $\nu$-a.e. strongly measurable and
```
Comment (grunweg) [inline paper/main.tex]:
```suggestion
Similarly, the operator $T$ is of strong type if there exists a constant $C$ such that for any $f\in L^p(X; E)$, we have that $T f$ is $\nu$-a.e.\ strongly measurable and
```

File: paper/main.tex [hunk 3]
```diff
@@ -1051,6 +1065,20 @@ \subsection{Test function classes}\label{subsec:bdd_comp_supp}
 % \end{itemize}
 
 \subsection{Common pitfalls}\label{subsec:pitfalls}
+As described in \ref{subsec:real}, at the beginning of the project we tried to avoid conversions by using the type \lean{Real} as much as possible, even if quantities were naturally nonnegative or possibly infinite. In the course of the project, in different contexts we realized that using \lean{NNReal} or \lean{ENNReal} instead would lead to shorter proofs and reduce the number of side conditions.
+While generally enabling simplifications, such changes not only came at the cost of additional conversions at the boundary between different contexts but also sometimes necessitated extending the API where \mathlib currently only supports \lean{Real}. For instance, to be able to integrate functions on \lean{NNReal} or \lean{ENNReal}, we added \lean{volume} instances on these types and proved basic properties and relations. For example, when integrating a function \lean{f : ℝ≥0∞ \to ℝ≥0∞}, the following expressions should be equivalent.
+\begin{leancode}
+∫⁻ (x : ℝ) in Ioi 0, f (ENNReal.ofReal x)
+∫⁻ (x : ℝ≥0), f (↑x)
```
Comment (grunweg) [inline paper/main.tex:1074]:
```suggestion
-- TODO: write out the coercion instead!
∫⁻ (x : ℝ≥0), f (↑x)
```

File: paper/main.tex [hunk 4]
```diff
@@ -1051,6 +1065,20 @@ \subsection{Test function classes}\label{subsec:bdd_comp_supp}
...
+∫⁻ (x : ℝ≥0∞), f x
+\end{leancode}
+
+Another case of equivalent representations we encountered was that of integrating on a set, i.e. with respect to a restricted measure, versus integrating an indicator function, again both useful for different purposes. Conversion here was straightforward using the lemmas \lean{integral_indicator} resp. \lean{lintegral_indicator} in \mathlib.
+Similarly, we can represent a periodic function on the real line as \lean{f : ℝ → ℂ} with the property \lean{f.Periodic T} and integrate it with respect to the measure \lean{volume.restrict (Ioc 0 T) : Measure ℝ}. Alternatively, we can write it as \lean{f : AddCircle T → ℂ} and integrate it with respect to \lean{volume : Measure (AddCircle T)}.
+Again, in different context the existing \mathlib API was more suitable for working with one of the two versions. It is still work in progress to extend \mathlib with API for the other version where no version is naturally favorable, to reduce the overall number of conversions.
+
+
+
```
Comment (grunweg) [inline paper/main.tex]:
```suggestion
```

File: paper/main.tex [hunk 5]
```diff
@@ -1051,6 +1065,20 @@ \subsection{Test function classes}\label{subsec:bdd_comp_supp}
 % \end{itemize}
 
 \subsection{Common pitfalls}\label{subsec:pitfalls}
+As described in \ref{subsec:real}, at the beginning of the project we tried to avoid conversions by using the type \lean{Real} as much as possible, even if quantities were naturally nonnegative or possibly infinite. In the course of the project, in different contexts we realized that using \lean{NNReal} or \lean{ENNReal} instead would lead to shorter proofs and reduce the number of side conditions.
```
Comment (grunweg) [inline paper/main.tex:1069]:
```suggestion
-- TODO: proof-read this section carefully
As described in \ref{subsec:real}, at the beginning of the project we tried to avoid conversions by using the type \lean{Real} as much as possible, even if quantities were naturally nonnegative or possibly infinite. In the course of the project, in different contexts we realized that using \lean{NNReal} or \lean{ENNReal} instead would lead to shorter proofs and reduce the number of side conditions.
```

**Review by grunweg — COMMENTED** [review]
Thanks! I've left a few nits and reminders to revisit some things. I'm going to merge it now (as the simplifications to the real interpolation theorem would be nice to have.
